US05780498
To a stirred solution of (L)-tryptophanamide hydrochloride (1 g, 4.2 mmol) and di-tert-butyl dicarbonate (1.1 g, 5 mmol) in dichloromethane (10 ml) triethylamine (0.7 ml, 5 mmol) is added dropwise. After 1 hour the reaction mixture is diluted with dichloromethane (200 ml) and washed with 1M hydrochloric acid (100 ml), saturated sodium bicarbonate solution (100 ml) and water (100 ml). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo to give N-BOC-(L)-tryptophanamide.

reactant | (L)-tryptophanamide hydrochloride | 4.2 mmol, 1 g | Cl.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N
reactant | di-tert-butyl dicarbonate | 5 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mmol, 10 ml | ClCCl | CH2Cl2
product | N-BOC-(L)-tryptophanamide | C(=O)(OC(C)(C)C)NC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C16H21N3O3
